US07439393B2
i) Tert-butyl{[3-(cyclopentylthio)benzyl]oxy}dimethylsilane
Tert-butyl[(3-iodobenzyl)oxy]dimethylsilane (WO9513095) (1.44 g) in dry 1-methyl-2-pyrrolidone (15 ml) and triethylamine (4 ml) was stirred at room temperature under nitrogen. 1-1′Bis(diphenylphosphino)ferrocene (110 mg) and tris(dibenzylideneacetone)dipalladium(0) (258 mg) were added and the mixture was stirred for 15 min. Cyclopentyl mercaptan (0.42 g) was then added, and the reaction mixture stirred at 60° C. for 2 h. The reaction mixture was cooled to room temperature, poured onto water and extracted with diethyl ether. The combined organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. The residue was purified on a 50 g SPE, eluting with a stepped gradient of 10 to 100% dichloromethane-cyclohexane to give the title compound (1.09 g) LCMS RT=4.67 min

reactant | Tert-butyl[(3-iodobenzyl)oxy]dimethylsilane | 1.44 g | C(C)(C)(C)[Si](C)(C)OCC1=CC(=CC=C1)I | C13H21IOSi
reactant | Cyclopentyl mercaptan | 0.42 g | C1(CCCC1)S | C5H10S
solvent | 1-methyl-2-pyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 258 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Tert-butyl{[3-(cyclopentylthio)benzyl]oxy}dimethylsilane | 1.09 g | C(C)(C)(C)[Si](C)(C)OCC1=CC(=CC=C1)SC1CCCC1 | C18H30OSSi
